US09085576B2
Step 2: 3,8-dichloro-5-fluoro-1,7-naphthyridine
A vial was charged with 3-chloro-5-fluoro-6-methoxy-6,7-dihydro-1,7-naphthyridin-8(5H)-one (7.5 g, 32.5 mmol), acetonitrile (130 mL) and phosphorus oxychloride (9.09 mL, 98 mmol), and the mixture was stirred at 75° C. for 15 hours. The mixture was concentrated, and the crude material was purified by silica gel chromatography, eluting with 0-50% ethyl acetate in heptanes, to provide the title compound (5.57 g, 25.7 mmol, 79% yield) as a white solid. LC/MS (ESI+) m/z=217(M+H)+.

reactant | 3-chloro-5-fluoro-6-methoxy-6,7-dihydro-1,7-naphthyridin-8(5H)-one | 32.5 mmol, 7.5 g | ClC=1C=NC=2C(NC(C(C2C1)F)OC)=O | C9H8ClFN2O2
reactant | phosphorus oxychloride | 98 mmol, 9.09 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 130 mL | C(C)#N | C2H3N
product | 3,8-dichloro-5-fluoro-1,7-naphthyridine | 25.7 mmol, 5.57 g, 79% yield | ClC=1C=NC2=C(N=CC(=C2C1)F)Cl | C8H3Cl2FN2
